US07553969B1
A mixture of Tyr(3-tBu)-NHMe (1.7 g, 6.8 mmol), acetaldehyde (0.76 ml, 13.6 mmol) and dichloromethane (10 ml) was stirred under cooling with ice for 30 min. The reaction mixture was concentrated under reduced pressure under cooling with ice; the thus obtained residue was mixed with methanol (20 ml) and then under cooling with ice with sodium borohydride (0.28 g, 7.4 mmol) and stirred at the same temperature for 15 min. The resultant was mixed with water and extracted with dichloromethane. The organic layer was washed with water, dried and concentrated under reduced pressure under cooling with ice; the thus obtained residue was subjected to silica gel column chromatography (CHCl3:MeOH=20:1), giving N-Et-Tyr(3-tBu)-NHMe (T8) (1.7 g, 90%).

reactant | Tyr(3-tBu)-NHMe | 6.8 mmol, 1.7 g | N[C@@H](CC1=CC(=C(C=C1)O)C(C)(C)C)C(=O)NC | C14H22N2O2
reactant | acetaldehyde | 13.6 mmol, 0.76 ml | C(C)=O | C2H4O
reactant | dichloromethane | 10 ml | ClCCl | CH2Cl2
reactant | sodium borohydride | 7.4 mmol, 0.28 g | [BH4-].[Na+]
solvent | water | O | H2O
product | N-Et-Tyr(3-tBu)-NHMe | 1.7 g, 90% | N([C@@H](CC1=CC(=C(C=C1)O)C(C)(C)C)C(=O)NC)CC | C16H26N2O2
